US03965257
4-(4-Diphenylmethylpiperidino)-4'-fluorobutyrophenone hydrochloride
A mixture of 125.5 g (0.5 mole) of 4-diphenylmethyl-piperidine, 110 g (0.55 mole) of 4'-fluoro-4-chlorobutyrophenone, 110 g (0.8 mole) of potassium carbonate, a small amount of potassium iodide and 600 ml of methyl isobutyl ketone was refluxed and stirred for 21/2 days, then filtered. The filtrate was concentrated under reduced pressure. The remaining residue was dissolved in ether and treated with ethereal HCl. A gummy residue formed which was dissolved in ethyl acetate with a small amount of water and heated on a steam bath to a vapor temperature of 77°C then cooled. The resulting precipitate was washed with ether and recrystallized from ethyl acetate, toluene and isopropyl alcohol to give the desired product, M.P. 194°-195.5°C.

reactant | 4-diphenylmethyl-piperidine | 0.5 mole, 125.5 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | 4'-fluoro-4-chlorobutyrophenone | 0.55 mole, 110 g | FC1=CC=C(C=C1)C(CCCCl)=O | C10H10ClFO
reactant | potassium carbonate | 0.8 mole, 110 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methyl isobutyl ketone | 600 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-(4-Diphenylmethylpiperidino)-4'-fluorobutyrophenone hydrochloride | Cl.C1(=CC=CC=C1)C(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C28H30FNO.ClH/c29-26-15-13-22(14-16-26)27(31)12-7-19-30-20-17-25(18-21-30)28(23-8-3-1-4-9-23)24-10-5-2-6-11-24;/h1-6,8-11,13-16,25,28H,7,12,17-21H2;1H
